US05117057
N'-t-butyl-N-benzoylhydrazine (1.0 g,) in 2 ml toluene was added dropwise to a solution of beta-trifluoromethylcrotonyl chloride (prepared by addition of oxalyl chloride (1.3 g) to a solution of 1.5 g beta-trifluoromethylcrotonic acid in 5 ml toluene at 23° C.). After 30 min. at 23° C., the reaction mixture was partitioned between saturated aqueous sodium bicarbonate (20 ml) and ether (20 ml). The ether layer was evaporated under reduced pressure to about 10 ml and the excess hydrazine was removed by filtration. The filtrate was evaporated to give N'-t-butyl-N-benzoyl-N'-(beta-trifluoromethylcrotonyl)hydrazine as a colorless oil.

reactant | N'-t-butyl-N-benzoylhydrazine | 1.0 g | C(C)(C)(C)NNC(C1=CC=CC=C1)=O | C11H16N2O
reactant | beta-trifluoromethylcrotonyl chloride | FC(\C(=C/C(=O)Cl)\C)(F)F | C5H4ClF3O
reactant | oxalyl chloride | 1.3 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | beta-trifluoromethylcrotonic acid | 1.5 g | FC(\C(=C/C(=O)O)\C)(F)F | C5H5F3O2
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N'-t-butyl-N-benzoyl-N'-(beta-trifluoromethylcrotonyl)hydrazine | C(C)(C)(C)N(NC(C1=CC=CC=C1)=O)C(\C=C(\C)/C(F)(F)F)=O | C16H19F3N2O2
